US06448397B1
To a mixture of (R)-(−)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol (5.9 g 19.6 mmol) in DMF (50 mL) is added potassium carbonate (8.1 g, 58.7 mmol) and bromoacetonitrile (4.1 mL, 58.7 mmol). The mixture is stirred at room temperature for 20 h. The mixture is partitioned between water and Et2O. The organic layer is washed twice with water (200 mL), dried over anhydrous sodium sulfate and concentrated. Column chromatography (800 mL silica) using CH2Cl2 eluent gave 5.94 g (89%) of (R)-(−)-2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile.

reactant | (R)-(−)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 19.6 mmol, 5.9 g | C1(=CC=CC=C1)[C@@H]1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
reactant | potassium carbonate | 58.7 mmol, 8.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 58.7 mmol, 4.1 mL | BrCC#N | C2H2BrN
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (R)-(−)-2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile | 5.94 g, 89% | C1(=CC=CC=C1)[C@@H]1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCC#N | C22H16N2O2
